US07553979B2
To a solution of 2-hydroxy-4,6-dimethoxy benzoic acid 1-methyl-4-oxo-non-8-enyl ester (0.031 g, 0.089 mmol) in pyridine (0.75 mL) and dichloromethane (0.75 mL) at 0° C. was added triflic anhydride (30 μL, 0.18 mmol) dropwise. After 2 hours, the reaction was quenched by the addition of water (2 mL). Extraction and chromatography afforded 2,4-dimethoxy-6-trifluoromethanesulfonyloxy-benzoic acid 1-methyl-4-oxo-non-8-enyl ester as a viscous yellow oil (41 mg).

reactant | 2-hydroxy-4,6-dimethoxy benzoic acid 1-methyl-4-oxo-non-8-enyl ester | 0.089 mmol, 0.031 g | CC(CCC(CCCC=C)=O)OC(C1=C(C=C(C=C1OC)OC)O)=O | C19H26O6
reactant | triflic anhydride | 0.18 mmol, 30 μL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | pyridine | 0.75 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 0.75 mL | ClCCl | CH2Cl2
product | 2,4-dimethoxy-6-trifluoromethanesulfonyloxy-benzoic acid 1-methyl-4-oxo-non-8-enyl ester | 41 mg | CC(CCC(CCCC=C)=O)OC(C1=C(C=C(C=C1OS(=O)(=O)C(F)(F)F)OC)OC)=O | C20H25F3O8S
